US08182718B2
Hdc=3-Methyl-2,2′-bipyridine
To a flask were added 1.0 g 2-bromo-3-methylpyridine and 10 ml of dry tetrahydrofuran. The solution was purged with nitrogen and 34 mg tetrakis(triphenylphosphine)palladium was added followed by 17.4 ml of a 0.5M solution of 2-pyridylzinc bromide in tetrahydrofuran. The mixture was stirred at 22 C for 24 hours, then 40 C for 72 hours. The mixture was poured into a solution of 5 g EDTA, 2 g sodium carbonate and 40 ml water. The product was extracted twice with diethylether, washed with water and dried over sodium sulfate. Following filtration and solvent removal, the product was purified by silica gel chromatography using 48% ethyl acetate, 48% hexane and 4% methanol. A slightly yellow oil remained 0.38 g.

reactant | 2-bromo-3-methylpyridine | 1.0 g | BrC1=NC=CC=C1C | C6H6BrN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Methyl-2,2′-bipyridine | CC=1C(=NC=CC1)C1=NC=CC=C1 | C11H10N2
